US06664260B2
Under a nitrogen atmosphere, sodium hydride (16.88 g of 60% in mineral oil, 422 mmol) was added in portions to a solution of 2-(1H-imidazo[4,5-c]quinolin-1-yl)ethanol (60.0 g, 281 mmol) in anhydrous N,N-dimethylformamide (600 mL). The alkoxide was allowed to stir for about 1.5 hours. Benzyl bromide (50.2 mL, 422 mmol) was slowly added over a period of about 30 minutes. The reaction mixture was allowed to stir at ambient temperature overnight. Solvent was removed under reduced pressure. The residue was taken up in ethyl acetate, washed several times with water, washed with brine, dried over magnesium sulfate and then concentrated under reduced pressure to provide 1-[2-(benzyloxy)ethyl]-1H-imidazo[4,5-c]quinoline as a dark oil.

reactant | sodium hydride | 422 mmol, 16.88 g | [H-].[Na+]
reactant | 2-(1H-imidazo[4,5-c]quinolin-1-yl)ethanol | 281 mmol, 60.0 g | N1(C=NC=2C=NC=3C=CC=CC3C21)CCO | C12H11N3O
reactant | Benzyl bromide | 422 mmol, 50.2 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 600 mL | CN(C=O)C | C3H7NO
product | 1-[2-(benzyloxy)ethyl]-1H-imidazo[4,5-c]quinoline | C(C1=CC=CC=C1)OCCN1C=NC=2C=NC=3C=CC=CC3C21 | C19H17N3O
